US09382228B2
A solution of trans-4-trifluoromethylcyclohexanecarboxylic acid (0.5 g, 2.55 mmol) in thionyl chloride (3.70 mL, 51.0 mmol) was heated to 60° C. for 1 h, cooled to RT and concentrated to dryness. The material was co-evaporated with toluene (2×), dissolved in EtOAc (5 mL), treated with satd. NaHCO3 (5 mL) followed by NH4OH (˜13M, 0.588 mL, ˜7.65 mmol) and stirred at RT for 0.5 h. The layers were separated, the aqueous layer extracted with EtOAc (2×) and the combined organics were dried over Na2SO4 and concentrated to dryness to afford trans-4-(trifluoromethyl)cyclohexanecarboxamide (380 mg, 76%) as a white solid.

reactant | trans-4-trifluoromethylcyclohexanecarboxylic acid | 2.55 mmol, 0.5 g | FC([C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C8H11F3O2
reactant | thionyl chloride | 51.0 mmol, 3.70 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NH4OH | ˜7.65 mmol, ˜13M, 0.588 mL | [NH4+].[OH-]
product | trans-4-(trifluoromethyl)cyclohexanecarboxamide | 380 mg, 76% | FC([C@@H]1CC[C@H](CC1)C(=O)N)(F)F | C8H12F3NO
